US08802679B2
tert-Butyl (2-{methyl[3-(2-piperazin-1-ylpyrimidin-5-yl)benzyl]amino}-2-oxoethyl)carbamate (200 mg) and ethyl 6-chloronicotinate (169 mg) were dissolved in NMP (4 ml), and N,N-dibutylbutan-1-amine (252 mg) was added thereto, followed by stirring at 100° C. overnight. To the reaction mixture was added water, followed by extraction with EtOAc. The organic layer was washed with saturated brine and dried over MgSO4, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (0% to 8% CHCl3/MeOH) to obtain ethyl 6-(4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazin-1-yl)nicotinate (100 mg).

reactant | tert-Butyl (2-{methyl[3-(2-piperazin-1-ylpyrimidin-5-yl)benzyl]amino}-2-oxoethyl)carbamate | 200 mg | CN(C(CNC(OC(C)(C)C)=O)=O)CC1=CC(=CC=C1)C=1C=NC(=NC1)N1CCNCC1 | C23H32N6O3
reactant | ethyl 6-chloronicotinate | 169 mg | ClC1=NC=C(C(=O)OCC)C=C1 | C8H8ClNO2
reactant | N,N-dibutylbutan-1-amine | 252 mg | C(CCC)N(CCCC)CCCC | C12H27N
reactant | water | O | H2O
solvent | NMP | 4 ml | CN1CCCC1=O | C5H9NO
product | ethyl 6-(4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazin-1-yl)nicotinate | 100 mg | C(C)(C)(C)OC(=O)NCC(=O)N(C)CC=1C=C(C=CC1)C=1C=NC(=NC1)N1CCN(CC1)C1=NC=C(C(=O)OCC)C=C1 | C31H39N7O5
